US08975254B2
d) (S)-tert-butyl 1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamate
2-Chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile (1.96 g, 8.96 mmol) was dissolved in toluene (20 ml). To this solution an aqueous solution of NaOH (1M, 20 ml) and tetrabutylammonium bromide (0.58 g, 1.79 mmol) was added, respectively. (S)-2-(tert-butoxycarbonylamino)propyl methanesulfonate (4.54 g, 17.92 mmol) was dissolved in toluene (20 ml) and added to the reaction mixture. After 96 h of vigorous stirring at RT the reaction mixture was diluted with toluene and washed several times with water, dried with Na2SO4, filtered and evaporated. After CombiFlash purification using heptane/EtOAc as eluents, 1.85 g of the product was collected. 1H-NMR (400 MHz; d6-DMSO): δ 1.02 (d, 3H), 1.31 (s, 9H), 2.57 (s, 3H), 3.91 (m, 1H), 4.13 (m, 2H), 6.62 (m, 1H), 6.87 (d, 1H), 7.66 (d, 1H), 7.79 (d, 1H), 7.84 (d, 1H).

reactant | 2-Chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile | 8.96 mmol, 1.96 g | ClC1=C(C#N)C=CC(=C1C)C1=NNC=C1 | C11H8ClN3
reactant | NaOH | 1M, 20 ml | [OH-].[Na+]
reactant | (S)-2-(tert-butoxycarbonylamino)propyl methanesulfonate | 17.92 mmol, 4.54 g | CS(=O)(=O)OC[C@H](C)NC(=O)OC(C)(C)C | C9H19NO5S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 1.79 mmol, 0.58 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-tert-butyl 1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamate | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(OC(C)(C)C)=O)C | C19H23ClN4O2
